US05827881
A! A solution of 100 g (0.86 mole) of levulinic acid in 1 l of acetone was added with 118 ml (0.86 mole) of triethylamine, and stirred for 15 minutes at room temperature. The mixture was cooled to 5° C. and added with a solution of ethyl chloroformate (83.3 ml, 0.86 mole) in 500 ml of acetone, then stirred for 15 minutes. The solid was filtered off and the mother liquor was added to a solution of dibutylamine (180 ml, 1 mole) in 1 l of acetone, then stirred overnight at room temperature, evaporated to dryness under vacuum, and the residue was dissolved in 1 l of ethyl ether, washed with 400 ml of 0.5N HCl, then with 400 ml of 0.5N sodium hydroxide. The ether phase was anhydrified over sodium sulfate and evaporated to dryness thus providing 175.5 g of a crude which by distillation under vacuum gave 112.5 g (yield: 57%) of N,N-dibutyl-4-oxo-pentanamide (b.p. 135°-138° C./1 mmHg).

reactant | levulinic acid | 0.86 mole, 100 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | triethylamine | 0.86 mole, 118 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.86 mole, 83.3 ml | ClC(=O)OCC | C3H5ClO2
reactant | dibutylamine | 1 mole, 180 ml | C(CCC)NCCCC | C8H19N
solvent | acetone | 1 l | CC(=O)C | C3H6O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | acetone | 1 l | CC(=O)C | C3H6O
product | N,N-dibutyl-4-oxo-pentanamide | 112.5 g, yield: 57% | C(CCC)N(C(CCC(C)=O)=O)CCCC | C13H25NO2
